US06110934
N-(2-Ethyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-2,4-dimethoxybenzamide Hydrochloride
The title compound was prepared in an analogous manner to Example 2 from 5-amino-2-ethyl-1,2,3,4-tetrahydroisoquinoline and 5-chloro-2,4-dimethoxybenzoyl chloride.

reactant | 5-amino-2-ethyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)CC | C11H16N2
reactant | 5-chloro-2,4-dimethoxybenzoyl chloride | ClC=1C(=CC(=C(C(=O)Cl)C1)OC)OC | C9H8Cl2O3
product | N-(2-Ethyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-2,4-dimethoxybenzamide Hydrochloride | Cl.C(C)N1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)OC)OC)=O | InChI=1S/C20H23ClN2O3.ClH/c1-4-23-9-8-14-13(12-23)6-5-7-17(14)22-20(24)15-10-16(21)19(26-3)11-18(15)25-2;/h5-7,10-11H,4,8-9,12H2,1-3H3,(H,22,24);1H
